US08017779B2
A mixture of 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol (100.0 g, 321.4 mmol) and acetonitrile (1 L) was stirred for five minutes, and ethoxyacetyl chloride (43.3 g, 353.3 mmol) was added. The reaction was stirred overnight at room temperature. The solid product was isolated by filtration and washed with acetonitrile (200 mL) to provide 113 g of N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-2-ethoxyacetamide hydrochloride as a yellow solid.

reactant | 1-[(3-amino-7-bromo[1,5]naphthyridin-4-yl)amino]-2-methylpropan-2-ol | 321.4 mmol, 100.0 g | NC=1C=NC2=CC(=CN=C2C1NCC(C)(O)C)Br | C12H15BrN4O
reactant | ethoxyacetyl chloride | 353.3 mmol, 43.3 g | C(C)OCC(=O)Cl | C4H7ClO2
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | N-{7-bromo-4-[(2-hydroxy-2-methylpropyl)amino][1,5]naphthyridin-3-yl}-2-ethoxyacetamide hydrochloride | 113 g | Cl.BrC1=CN=C2C(=C(C=NC2=C1)NC(COCC)=O)NCC(C)(C)O | InChI=1S/C16H21BrN4O3.ClH/c1-4-24-8-13(22)21-12-7-18-11-5-10(17)6-19-14(11)15(12)20-9-16(2,3)23;/h5-7,23H,4,8-9H2,1-3H3,(H,18,20)(H,21,22);1H
